US06897225B1
6-[4-[2-(2-Methoxycarbonylvinyl)phenyl]benzyl]-8-(3,5-dichlorophenyl)-1,8-diazabicyclo[4.3.0]nonane-7,9-dione
A mixture of 6-[4-(2-formylphenyl)benzyl]-8-(3,5-dichlorophenyl)-1,8-diazabicyclo(4.3.0]nonane-7,9-dione (0.205 g) and methyl (triphenylphosphoranylidene)acetate (0.223 g) in toluene (5 mL) was refluxed for 8 hours. The mixture was evaporated and the residue was purified by chromatography (Silica gel: EtOAc/hexane: 1/4 to 1/3, Chromatotron) to afford the titled compound (0.229 g). MS (m/z) 571(M++Na).

reactant | 6-[4-(2-formylphenyl)benzyl]-8-(3,5-dichlorophenyl)-1,8-diazabicyclo(4.3.0]nonane-7,9-dione | 0.205 g | C(=O)C1=C(C=CC=C1)C1=CC=C(CC23CCCCN3C(N(C2=O)C2=CC(=CC(=C2)Cl)Cl)=O)C=C1 | C27H22Cl2N2O3
reactant | methyl (triphenylphosphoranylidene)acetate | 0.223 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC(=O)OC | C21H19O2P
reactant | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 6-[4-[2-(2-Methoxycarbonylvinyl)phenyl]benzyl]-8-(3,5-dichlorophenyl)-1,8-diazabicyclo[4.3.0]nonane-7,9-dione | 0.229 g | COC(=O)C=CC1=C(C=CC=C1)C1=CC=C(CC23CCCCN3C(N(C2=O)C2=CC(=CC(=C2)Cl)Cl)=O)C=C1 | C30H26Cl2N2O4
